US07151105B2
Step 1: Bromo-4-ethanesulfonyl-benzene
1-Bromo-4-ethylsulfanyl-benzene (5.0 g) was dissolved in acetic acid and potassium permanganate as a 3% solution in water (8 mL) was added. The reaction mixture was heated to 90° C. for 3 hrs, after which time the reaction was cooled to room temperature and partitioned between ethyl acetate and 2N NaOH solution (500 m) each. The organics were separated and washed with water (100 mL), dried over sodium sulfate and purified on biotage eluting with 90:10 hexanes : ethyl acetate to afford the title compound as a clear oil (2.70 g). 1H NMR (300 MHz, CDCl3): δ 1.30 (t, J=7.85 Hz, 3 H) 3.02 (q, J=7.54 Hz, 2 H), 7.40 (m, 4 H).

reactant | 1-Bromo-4-ethylsulfanyl-benzene | 5.0 g | BrC1=CC=C(C=C1)SCC | C8H9BrS
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 8 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Bromo-4-ethanesulfonyl-benzene | 2.70 g | BrC1=CC=C(C=C1)S(=O)(=O)CC | C8H9BrO2S
